US05753664
7-[4-(4-Fluorobenzoyl)benzyl]-4-methoxy-5-methyl-2-methylthio-7H-pyrrolo[2,3-d]pyrimidine
Under argon gas, 4-methoxy-5-methyl-2-methylthio-7H-pyrrolo[2,3-d]pyrimidine (4.18 g) was dissolved in anhydrous DME (120 ml). Then, with ice-cooling and stirring, 60% sodium hydride-oil (0.88 g) was added in 3 installments. After completion of addition, the mixture was stirred for 30 minutes, at the end of which time a solution of 4-(4-fluorobenzoyl)benzyl bromide (6.74 g) in anhydrous DME (20 ml) was added. Then, at room temperature, the mixture was stirred for 2 hours. The solvent was distilled off under reduced pressure and the residue was dissolved in ethyl acetate, washed with saturated aqueous NaCl solution, and dried over anhydrous sodium sulfate. The solvent was then distilled off under reduced pressure, whereupon colorless needles separated out. These crystals were collected by filtration, rinsed with ethyl acetate, and dried to provide the title compound (7.07 g). 1H-NMR (CDCl3) 5: 2.33(3H,d,J=1.2Hz), 2.61(3H,s), 4.09(3H,s), 5.37(2H,s), 6.58(1H,d,J=1.2Hz), 7.15(2H,t,J=8.6Hz), 7.29(2H,d,J=8.4Hz), 7.71(2H,d,J=8.4Hz), 7.82(2H,dd,J=5.4&8.8Hz).

reactant | 4-methoxy-5-methyl-2-methylthio-7H-pyrrolo[2,3-d]pyrimidine | 4.18 g | COC=1C2=C(N=C(N1)SC)NC=C2C | C9H11N3OS
reactant | sodium hydride | 0.88 g | [H-].[Na+]
reactant | 4-(4-fluorobenzoyl)benzyl bromide | 6.74 g | FC1=CC=C(C(=O)C2=CC=C(CBr)C=C2)C=C1 | C14H10BrFO
solvent | DME | 120 ml | COCCOC | C4H10O2
solvent | DME | 20 ml | COCCOC | C4H10O2
product | 7-[4-(4-Fluorobenzoyl)benzyl]-4-methoxy-5-methyl-2-methylthio-7H-pyrrolo[2,3-d]pyrimidine | 7.07 g | FC1=CC=C(C(=O)C2=CC=C(CN3C=C(C4=C3N=C(N=C4OC)SC)C)C=C2)C=C1 | C23H20FN3O2S
